US04585877
2-Ethylphenylhydrazine Hydrochloride
A vigorously stirred solution of 487 ml concentrated hydrochloric acid and 218 ml of water at 0° C. was treated dropwise with 1.93 moles (234 g) of 2-ethylaniline. To the resulting thick suspension was added a solution of sodium nitrite (143 g, 2.07 moles) in 218 ml of water over 1.5 hours while maintaining the internal temperature between 8° C. and 14° C. Next, a solution of SnCl2.2H2O (4.37 moles, 985 g) in 1.312 l of 1:1 concentrated hydrochloric acid:water was added over 5 hours while the internal temperature was kept between 5° C. and 10° C. After 15 hours, the solid was collected on a filter paper and boiled in 1.2 l of water with decolorizing carbon. The solution was filtered through Celite, treated with 400 ml of concentrated hydrochloric acid and put in an ice bath for 0.5 hours. The tan plates were filtered and dried in vacuo over phosphorous pentoxide for 24 hours affording title compound, m.p. 181°-183° C.

reactant | 2-ethylaniline | 1.93 moles, 234 g | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | sodium nitrite | 2.07 moles, 143 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 4.37 moles, 985 g | O.O.Cl[Sn]Cl
solvent | water | 218 ml | O | H2O
solvent | hydrochloric acid | 1.312 l | Cl | ClH
solvent | water | 218 ml | O | H2O
solvent | hydrochloric acid | 487 ml | Cl | ClH
product | 2-Ethylphenylhydrazine Hydrochloride | Cl.C(C)C1=C(C=CC=C1)NN | InChI=1S/C8H12N2.ClH/c1-2-7-5-3-4-6-8(7)10-9;/h3-6,10H,2,9H2,1H3;1H
